complete circuit
C12 12 13 100n IC=0
C13 0 16 1u IC=0
R12 13 0 10k
C8 14 0 10n IC=0
C9 0 17 10n IC=0
R13 12 9 1k
C10 1 17 1u IC=0
R9 15 17 270
R11 0 17 150
R10 14 0 150
C11 2 14 1u IC=0
R14 16 9 {10>0.01?((10/0.01)**(log(400/300k)/ln(10)/4))*300k:300k}
R8 8 14 270

.option savecurrents
.option interp
.OP
*.TRAN 1ms 100ms
* .AC DEC 100 100 1MEG
.END